US04482556
9,10-Dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one
A mixture of 30.0 g of 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione and 300 ml of phosphorus oxychloride is heated on a steam bath for 4 hours. The excess of phosphorus oxychloride is distilled under reduced pressure. The residue is poured into a cold solution of sodium hydroxide. A yellow solid precipitates which is collected by filtration. The product is purified by passage through a silica gel column using chloroform as eluent. Yield 28.0 g, m.p. 235°-236° C.

reactant | 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione | 30.0 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(NC3=O)=O | C14H14N2O4
reactant | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9,10-Dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)Cl | C14H13ClN2O3
